* File: Nand.pex.netlist.pex
* Created: Tue May 10 18:05:25 2022
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%B 9 13 17
c0 17 0 0.0484905f
c1 15 0 0.0649222f
c2 13 0 0.140016f
c3 9 0 0.102982f
c4 2 0 0.200707f
r5 11 15 8.6599
r6 11 13 58
r7 7 15 8.6599
r8 7 9 37.75
r9 4 17 13.2552
r10 2 15 1.65164
r11 2 4 10.6566
.ends

.subckt PM_NAND%GND 6 21 27
c0 27 0 0.0723066f
c1 16 0 0.342246f
c2 5 0 0.0146703f
c3 4 0 0.066416f
r4 23 27 16.3327
r5 21 23 4.968
r6 15 16 8.16635
r7 8 9 8.16635
r8 6 15 6.60638
r9 6 8 6.60638
r10 4 9 0.183826
r11 4 5 0.0296412
r12 3 16 0.923696
r13 3 5 0.0296412
r14 2 27 0.241957
r15 2 5 0.00770322
.ends

.subckt PM_NAND%OUT_2 2 7 12 22
c0 20 0 0.415851f
c1 17 0 0.102347f
c2 15 0 0.231762f
r3 20 22 0.278627
r4 15 17 0.719478
r5 14 15 16.3327
r6 12 14 4.59
r7 10 17 0.0389212
r8 10 20 0.0171351
r9 9 10 8.16635
r10 7 9 2.295
r11 4 22 8.16635
r12 2 4 2.394
.ends

.subckt PM_NAND%C 10 15
c0 13 0 0.0983173f
c1 9 0 0.169012f
c2 8 0 0.0243298f
c3 7 0 0.131641f
c4 5 0 0.0252196f
c5 4 0 0.667461f
c6 3 0 0.136781f
r7 17 18 16.3327
r8 15 17 4.77
r9 12 13 16.3327
r10 10 12 4.842
r11 9 18 0.450435
r12 8 13 0.20188
r13 7 9 0.0410646
r14 6 7 0.336657
r15 4 6 0.0396617
r16 4 5 1.12833
r17 3 8 0.0391994
r18 2 5 0.0436225
r19 2 3 0.494565
.ends

.subckt PM_NAND%A 4 8 18
c0 18 0 0.0771989f
c1 15 0 0.0408383f
c2 12 0 0.204258f
c3 8 0 0.179035f
c4 4 0 0.106008f
r5 12 18 13.2552
r6 10 15 1.65164
r7 10 12 11.0708
r8 6 15 8.6599
r9 6 8 71.5
r10 2 15 8.6599
r11 2 4 37.75
.ends

.subckt PM_NAND%VDD 2 3 4 9 42
c0 40 0 8.61535e-19
c1 38 0 9.61683e-19
c2 34 0 0.29538f
c3 12 0 0.11691f
c4 7 0 0.110284f
r5 40 42 0.0193368
r6 34 42 0.0197972
r7 31 42 16.3327
r8 26 34 0.175
r9 25 26 16.3327
r10 22 26 0.970565
r11 22 35 0.172261
r12 21 22 16.3327
r13 16 38 0.0193421
r14 16 35 0.0197919
r15 15 16 16.3327
r16 12 40 0.396375
r17 11 12 8.16635
r18 9 11 2.655
r19 7 38 0.396375
r20 6 7 8.16635
r21 4 6 2.286
r22 3 31 6.60638
r23 3 25 6.60638
r24 2 21 6.60638
r25 2 15 6.60638
.ends

