* File: nor.pex.netlist.pex
* Created: Tue May 10 18:33:11 2022
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%Y 9 13 18
c0 18 0 0.067744f
c1 15 0 0.0733058f
c2 13 0 0.143409f
c3 9 0 0.109209f
c4 2 0 0.199331f
r5 11 15 8.6599
r6 11 13 58
r7 7 15 8.6599
r8 7 9 37.75
r9 4 18 13.2552
r10 2 15 1.65164
r11 2 4 10.6566
.ends

.subckt PM_NOR%OUT_3 2 7 12 19
c0 21 0 0.0415031f
c1 19 0 0.321327f
c2 5 0 0.272058f
r3 17 19 0.75875
r4 14 19 16.3327
r5 12 14 4.59
r6 10 21 0.0213056
r7 10 17 0.0182963
r8 9 10 16.3327
r9 7 9 4.968
r10 5 21 0.717043
r11 4 5 8.16635
r12 2 4 2.394
.ends

.subckt PM_NOR%VDD 4 5 6 27
c0 25 0 0.332007f
c1 20 0 0.0675542f
c2 9 0 0.114389f
r3 25 27 1.13674
r4 20 29 0.00770322
r5 20 25 0.0296412
r6 19 20 8.16635
r7 12 27 8.16635
r8 9 29 0.413609
r9 8 9 8.16635
r10 6 8 2.295
r11 5 19 6.60638
r12 4 12 6.60638
.ends

.subckt PM_NOR%X 4 8 17
c0 17 0 0.0375469f
c1 15 0 0.0349974f
c2 12 0 0.202852f
c3 8 0 0.167577f
c4 4 0 0.103355f
r5 12 17 13.2552
r6 10 15 1.65164
r7 10 12 11.0708
r8 6 15 8.6599
r9 6 8 71.5
r10 2 15 8.6599
r11 2 4 37.75
.ends

.subckt PM_NOR%GND 4 19 24 37
c0 29 0 0.00172068f
c1 27 0 0.0719367f
c2 22 0 0.076698f
c3 2 0 0.299088f
r4 34 37 0.0195555
r5 29 37 0.0195555
r6 26 27 16.3327
r7 24 26 4.77
r8 22 29 0.248348
r9 21 22 16.3327
r10 19 21 4.842
r11 14 34 1.14435
r12 13 14 8.16635
r13 6 37 8.16635
r14 4 13 6.60638
r15 4 6 6.60638
r16 3 27 0.248348
r17 2 14 0.176522
r18 2 3 0.0422619
.ends

.subckt PM_NOR%C 12 19
c0 29 0 0.0331431f
c1 26 0 0.0342293f
c2 24 0 0.0463847f
c3 18 0 0.0482198f
c4 11 0 0.168346f
c5 8 0 0.0791625f
c6 7 0 0.0221704f
c7 6 0 0.60634f
c8 5 0 0.0203371f
c9 4 0 0.0702272f
c10 3 0 0.166456f
r11 24 29 0.0991667
r12 22 29 0.0192945
r13 21 24 16.3327
r14 21 22 16.3327
r15 19 21 2.655
r16 18 26 0.108043
r17 15 26 0.0196677
r18 14 18 16.3327
r19 14 15 16.3327
r20 12 14 2.286
r21 10 11 0.609412
r22 9 22 0.0198395
r23 8 10 0.0392463
r24 8 9 0.261739
r25 6 11 0.0391158
r26 6 7 1.79308
r27 4 15 0.0194492
r28 4 5 0.294894
r29 3 7 0.0393137
r30 2 5 0.0397665
r31 2 3 0.530339
.ends

